US06770659B2
A mixture of 4-(4-fluorobenzoyl)piperidine (5 mmol) and styrene oxide(5 mmol) was refluxed in 30 ml of isopropanol for 4 h. This solution was then concentrated on a rotary evaporator and diluted with ethyl acetate. This mixture was then washed with brine, the resulting organic layer was dried and concentrated in vacuo. The crude product was dissolved in THF(50 ml) and was added with 1,1′-carbonyl diimidazole (2 mmol) at 0° C. The reaction mixture was stirred at room temperature for 4 h, followed by the addition of excess ammonium hydroxide (10 ml) at 0° C. After 5 h stirring at room temperature, water was added to terminate the reaction. The organic layer was extracted 3 times with dichloromethane, dried and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate:hexane=1:2). The resulting carbamic acid 2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-phenyl-ethyl ester was dissolved in THF and the solution was treated with a solution of HCl in ethyl ether. The resulting precipitate was filtered to give carbamic acid 2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-phenyl-ethyl ester; hydrochloride.

reactant | 4-(4-fluorobenzoyl)piperidine | 5 mmol | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | styrene oxide | 5 mmol | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | 1,1′-carbonyl diimidazole | 2 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | carbamic acid 2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-phenyl-ethyl ester | FC1=CC=C(C(=O)C2CCN(CC2)CC(C2=CC=CC=C2)OC(N)=O)C=C1 | C21H23FN2O3
